US09428465B2
Step 1. Preparation of 1-benzhydryl-5-(2-naphthyl)pyrimidine-2,4-dione
The title compound: was obtained according to the procedure described for the synthesis of Example 14 (Step 2), starting from 1-benzhydryl-5-iodo-pyrimidine-2,4-dione (0.11 g, 0.27 mmol) and 2-naphthylboronic acid (0.07 g, 0.41 mmol). The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 70:30) to afford the title compound (0.09 g, 80%) as an off-white solid. 1H NMR (400 MHz, CDCl3): 7.17 (s, 1H), 7.24-7.27 (m, 2H), 7.36 (s, 1H), 7.38-7.47 (m, 10H), 7.76-7.88 (m, 5H), 8.28 for s, 1H). MS (ESI) m/z: 405 [M-H]+.

reactant | 1-benzhydryl-5-iodo-pyrimidine-2,4-dione | 0.27 mmol, 0.11 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(NC(C(=C1)I)=O)=O | C17H13IN2O2
reactant | 2-naphthylboronic acid | 0.41 mmol, 0.07 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | 1-benzhydryl-5-(2-naphthyl)pyrimidine-2,4-dione | 0.09 g, 80% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(NC(C(=C1)C1=CC2=CC=CC=C2C=C1)=O)=O | C27H20N2O2
